US03989832
2.85 ml. N-formyl-piperidine in 10 ml. dioxan were stirred with 2.4 ml. phosphorus oxychloride, which was introduced portionwise at 35° - 40° C., for 30 minutes at this temperature, then 1.5 g. crude 3-(5-nitro-1-methyl-2-imidazolyl)-6-amino-s-triazolo[ 4,3-b]pyridazine was added and the reaction mixture was stirred for 1.5 hours at 35° - 40° C. The solution obtained was now poured into 75 ml. ice water, filtered with suction and the clear filtrate was rendered alkaline (about pH 10) with concentrated aqueous ammonia, cooled, left to stand for some time and the resultant crystals (1.28 g.) filtered off with suction and recrystallized from 25 ml. isopropanol, with the addition of charcoal, 0.82 g. of the desired 3-(5-nitro-1-methyl-2-imidazolyl)-6-(1-piperidinyl-methyleneamino)-s-triazolo[ 4,3-b]pyridazine thereby being obtained in the form of yellowish-white crystals which melt at 187° - 189° C.

reactant | N-formyl-piperidine | C(=O)N1CCCCC1 | C6H11NO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(5-nitro-1-methyl-2-imidazolyl)-6-amino-s-triazolo[ 4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)N | C9H8N8O2
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 3-(5-nitro-1-methyl-2-imidazolyl)-6-(1-piperidinyl-methyleneamino)-s-triazolo[ 4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)N=CN2CCCCC2 | C15H17N9O2
